US06432993B1
t-Butyl N-[5-(4-methoxymethoxy-2,3,5-trimethylphenoxy)-2-nitrophenyl]-N-methylcarbamate
6.11 g of sodium hydride (55% by weight) were suspended in 300 ml of N,N-dimethylformamide, followed by the addition of 27.5 g of 4-methoxymethoxy-2,3,5-trimethylphenol. The resulting mixture was stirred at room temperature for one hour. To the reaction mixture, 40.1 g of t-butyl N-(5-chloro-2-nitrophenyl)-N-methylcarbamate were added in small portions and the mixture was stirred at 120° C. for 2 hours. The reaction mixture was concentrated by evaporation. Water was added to the concentrate, followed by extraction with ethyl acetate. The extract was dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by chromatography through a silica gel column (eluting solvent: n-hexane/ethyl acetate=5/1), whereby 57.0 g of the title compound were obtained.

reactant | sodium hydride | 6.11 g | [H-].[Na+]
reactant | 4-methoxymethoxy-2,3,5-trimethylphenol | 27.5 g | COCOC1=C(C(=C(C=C1C)O)C)C | C11H16O3
reactant | t-butyl N-(5-chloro-2-nitrophenyl)-N-methylcarbamate | 40.1 g | ClC=1C=CC(=C(C1)N(C(OC(C)(C)C)=O)C)[N+](=O)[O-] | C12H15ClN2O4
solvent | N,N-dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | t-Butyl N-[5-(4-methoxymethoxy-2,3,5-trimethylphenoxy)-2-nitrophenyl]-N-methylcarbamate | 57.0 g | COCOC1=C(C(=C(OC=2C=CC(=C(C2)N(C(OC(C)(C)C)=O)C)[N+](=O)[O-])C=C1C)C)C | C23H30N2O7
